US07396836B2
5-(6-Chloro-3-pyridyl)-4-(2-furyl)-2-pyrimidinylamine
A suspension of 2-(6-chloro-3-pyridyl)-3-(dimethylamino)-1-(2-furyl)-2-propen-1-one (7.49 g, 27.1 mmol), guanidine hydrochloride (7.7 g, 81.0 mmol) and potassium carbonate (22.4 g, 162 mmol) in N,N-dimethylformamide (105 ml) was stirred at 70° C. for 21 hours. After cooling as it was, the reaction mixture was diluted with water. The resulting crystals were collected by filtration and washed with water, to give the title compound (5.48 g, 74%) as a pale yellow solid.

reactant | 2-(6-chloro-3-pyridyl)-3-(dimethylamino)-1-(2-furyl)-2-propen-1-one | 27.1 mmol, 7.49 g | ClC1=CC=C(C=N1)C(C(=O)C=1OC=CC1)=CN(C)C | C14H13ClN2O2
reactant | guanidine hydrochloride | 81.0 mmol, 7.7 g | Cl.NC(=N)N
reactant | potassium carbonate | 162 mmol, 22.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 105 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-(6-Chloro-3-pyridyl)-4-(2-furyl)-2-pyrimidinylamine | 5.48 g, 74% | ClC1=CC=C(C=N1)C=1C(=NC(=NC1)N)C=1OC=CC1 | C13H9ClN4O
